US03931311
212 g (1 mole) of 1-chloromethyl-1-phenyl-3,3-dimethylurea were dissolved in 100 ml of anhydrous ethyl acetate and 63 g (1.0 mole) of ethylen glycol and 60 g (1.0 mole) of triethylamine were added dropwise whilst cooling with ice. After stirring for 2 hours at 10° to 15°C, the triethylamine hydrochloride used was filtered off and the solvent was distilled off. 238 g of 1-β-hydroxyethoxymethyl-1-phenyl-3,3-dimethylurea were obtained as an oil, in quantitative yield.

reactant | 1-chloromethyl-1-phenyl-3,3-dimethylurea | 1 mole, 212 g | ClCN(C(=O)N(C)C)C1=CC=CC=C1 | C10H13ClN2O
reactant | ethylen glycol | 1.0 mole, 63 g | C(CO)O | C2H6O2
reactant | triethylamine | 1.0 mole, 60 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-β-hydroxyethoxymethyl-1-phenyl-3,3-dimethylurea | 238 g, quantitative yield | OCCOCN(C(=O)N(C)C)C1=CC=CC=C1 | C12H18N2O3
